2114-12-24 07:36:00 Physician Resident Progress Note
Chief Complaint: - Had a tagged red blood cell scan which was negative
   - NGT lavage without evidence of gastric bleed
   - Pt recieved 2 units of blood with good response; stable overnight.
   Then had 2 large episodes of BRBPR this AM. Currently recieving an
   additional 1U rbc.
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2114-12-23**] 02:20 PM
   red tag study
   Allergies:
   Lisinopril
   angioedema of l
   Aspirin
   GI bleeding;
   Diovan (Oral) (Valsartan)
   angioedema;
   Ultram (Oral) (Tramadol Hcl)
   angioedema ;
   Nsaids
   GIB and angioed
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2114-12-24**] 06:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Denies SOB, chest pain, abdominal pain, no
   complaints
   Flowsheet Data as of  [**2114-12-24**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 97 (59 - 110) bpm
   BP: 154/71(89) {129/39(64) - 187/104(110)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    647 mL
                                                                    121 mL
   PO:
                  TF:
   IVF:
                                                                     18 mL
   Blood products:
                                                                    629 mL
                                                                    121 mL
   Total out:
                                                                    459 mL
                                                                    590 mL
   Urine:
                                                                    459 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    188 mL
                                                                   -469 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.38/46/70/27/0
   Physical Examination
   General Appearance: Thin
   HEENT:  PERRL, MMM
   Lymphatic: Cervical WNL
   Cardiovascular: RRR, S1,S2, 2/6 SEM at LUSB.
   Respiratory / Chest:  Symmetric, Resonant, Clear bilaterally
   Abdominal: +BS, soft, NT, ND
   Extremities: trace bilateral LE Edema
   Skin:  Warm
   Neurologic: Attentive, Follows commands, Responds to Verbal stimuli.
   Labs / Radiology
   132 K/uL
   10.3 g/dL
   112 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   30 mg/dL
   115 mEq/L
   147 mEq/L
   29.3 %
   9.4 K/uL
        [image002.jpg]
                            [**2114-12-23**]  10:14 AM
                            [**2114-12-23**]  06:17 PM
                            [**2114-12-24**]  12:00 AM
                            [**2114-12-24**]  12:16 AM
                            [**2114-12-24**]  05:00 AM
   WBC
   9.4
   Hct
   24.8
   33.6
   31.3
   29.3
   Plt
   132
   Cr
   1.1
   TCO2
   28
   Glucose
   112
   Other labs: Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assesment/Plan: This is a [**Age over 90 **] year-old female with a history of CHF,
   CAD, hypertension, diverticuli who presents with bleeding.
   1. GI bleeding/hypotension: Tagged RBC scan
   Given history of diverticuli, brisk lower bleed and significant hct
   drop, the most likely cause of bleeding is the sigmoid diverticuli.
   Other potential causes include upper GI source, other colonic sources
   including mass, polyps, etc.  Hypotension likely secondary to the GI
   bleeding as patient has improved and has no other causes for
   hypotension.
   - transfuse 2 U PRBC
   - serial hct
   - tagged RBC scan, if positive will get angiography
   - if angiography will pretreat for allergy
   - colonoscopy once stable from current event
   .
   2. dCHF: Patient with grade II diastolic dysfunction.  Has not had
   event of decompensation in approx 1 year, however with the
   administration of blood products, the patient is at risk for volume
   overload.  Currently without 02 requirement, baseline cxr without signs
   of significant volume overload.  Will transfuse slowly, follow with
   serial exams and consider lasix if patient shows signs of volume
   overload. Will also contact outpatient cardiologist regarding current
   admission.  Unable to be on betablocker secondary to bradycardia and
   ACE/[**Last Name (un) **] secondary to angioedema.
   - slowly transfuse
   - consider lasix if volume overloaded
   - notify cardiologist
   .
   3. Alkylosis: Appears to be very mild respiratory and metabolic
   alkylosis.  Seems likely to be secondary to hyperventilation in the
   setting of anxiety (respiratory) and hypovolemia (metabolic), both
   disorders very mild.  Will repeat ABG with iCal
   - ABG repeat
   .
   4. Allergy history:  the patient has history of multiple allergies
   including shellfish. Thus will pretreat with solumedrol, benadryl and
   famotidine prior to and angiography procedure as the patient is at
   increased risk and is DNR/I.
   - methylprednisolone, diphenhydramine, famotidine prn angiography
   .
   5. Hypothyroidism- will continue home meds
   .
   6. Osteoporosis:  will continue calcium when taking POs.
   .
   # FEN:  Hypovolemic, will repeat calcium, NPO for now.
   .
   # Access  3 PIVx
   .
   # PPx:  pneumoboots
   .
   # Code:  DNR/I
   .
   # Dispo:  ICU
   .
   # Comm:
   ICU [**Name2 (NI) 81**]
   Nutrition:  NPO
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2114-12-23**] 10:11 AM
   Prophylaxis:
   DVT:   Pneumoboots
   Stress ulcer:  PPI
   Code status:   DNR/DNI
   Disposition:  ICU

2114-12-24 09:16:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2114-12-23**] 02:20 PM
   red tag study
   Tagged RBC scan negative (yesterday).
   Experienced large volume BRBPR this AM.  No abdominal pain.
   No hemodynamic compromise.  No dyspnea.
   Planned for additional 1 U PRBC this AM (total 3 U PRBC this
   admission).
   GI consultants evaluating.  Recommend colonoscopy.
   Pt. refuses colonoscopy this AM.
   History obtained from Patient
   Allergies:
   Lisinopril
   angioedema of l
   Aspirin
   GI bleeding;
   Diovan (Oral) (Valsartan)
   angioedema;
   Ultram (Oral) (Tramadol Hcl)
   angioedema ;
   Nsaids
   GIB and angioed
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2114-12-24**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-12-24**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 69 (59 - 110) bpm
   BP: 144/58(74) {129/39(64) - 187/104(110)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    647 mL
                                                                    277 mL
   PO:
                  TF:
   IVF:
                                                                     18 mL
   Blood products:
                                                                    629 mL
                                                                    277 mL
   Total out:
                                                                    459 mL
                                                                    790 mL
   Urine:
                                                                    459 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    188 mL
                                                                   -513 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.38/46/70/27/0
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, chronic venous changes
   pretibial
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, month, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   132 K/uL
   112 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   30 mg/dL
   115 mEq/L
   147 mEq/L
   29.3 %
   9.4 K/uL
        [image002.jpg]
                            [**2114-12-23**]  10:14 AM
                            [**2114-12-23**]  06:17 PM
                            [**2114-12-24**]  12:00 AM
                            [**2114-12-24**]  12:16 AM
                            [**2114-12-24**]  05:00 AM
   WBC
   9.4
   Hct
   24.8
   33.6
   31.3
   29.3
   Plt
   132
   Cr
   1.1
   TCO2
   28
   Glucose
   112
   Other labs: PT / PTT / INR://1.2, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   GI bleed -- Painless, large volume --> suspect diverticular (h/o
   diverticuolosis), doubt malignancy.  If clinical evidence for recurrent
   bleed --> repeat nuclear tagged RBC scan, possible angio with
   embolization if site identified.  Not surgical candidate.
   ANEMIA -- attributed to lower GI source (suspect diverticular).  s/p
   transfusion. Monitor Hct, transfuse to Hct >28.
   NUTRITIONAL SUPPORT -- NPO pending GI evaluation.
   FLUIDS -- hypovolemic, attributed to blood loss.
   HYPERNATREMIA -- provide free water.  Monitor Na, goal to Na<146.
   RENAL -- preserved.  Monitor UO, BUN, creat.
   HTN -- stable.  Monitor BP.
   CHF (diastolic) -- clinically stable.  Monitor while receiving PRBC.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-12-23**] 10:11 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-12-25 07:37:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
   - [**Doctor First Name 4534**]- 2 large episodes brpr @ 0600 and 1000 - HD stable, 1u prbc (with
   lasix); trbc scan if active bleeding ; Goal Hct 25-30 ; changed ppi
   from iv to po; 500 cc d5 for hypernatremia ; deferred surgery consult
   - 2 U PRBC today
   - Hct 29.3 > post-transfusion 1 u 30.1 > 31.5 post transfusion 1 U (4 U
   total) > 30.4> 5a 27.3
   - Hypernatremia - 147 > s/p 500 cc d5W > 144
   - Refused colonoscopy
   - GI - favor tagged rbc scan;
   - 500 cc bolus for Cr 1.1 > 1.3
   Allergies:
   Lisinopril
   angioedema of l
   Aspirin
   GI bleeding;
   Diovan (Oral) (Valsartan)
   angioedema;
   Ultram (Oral) (Tramadol Hcl)
   angioedema ;
   Nsaids
   GIB and angioed
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Edema, No(t) Tachycardia
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious, No(t) Daytime
   somnolence
   Flowsheet Data as of  [**2114-12-25**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 72 (58 - 97) bpm
   BP: 117/41(59) {97/31(50) - 154/70(91)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,380 mL
                                                                    312 mL
   PO:
                                                                  1,140 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    540 mL
                                                                     72 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,643 mL
                                                                    205 mL
   Urine:
                                                                  1,423 mL
                                                                    205 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    120 mL
   Drains:
   Balance:
                                                                    737 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2- does not know date, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   106 K/uL
   10.0 g/dL
   100 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   31 mg/dL
   113 mEq/L
   144 mEq/L
   27.3 %
   9.9 K/uL
        [image002.jpg]
                            [**2114-12-23**]  10:14 AM
                            [**2114-12-23**]  06:17 PM
                            [**2114-12-24**]  12:00 AM
                            [**2114-12-24**]  12:16 AM
                            [**2114-12-24**]  05:00 AM
                            [**2114-12-24**]  10:26 AM
                            [**2114-12-24**]  02:25 PM
                            [**2114-12-24**]  07:31 PM
                            [**2114-12-25**]  05:34 AM
   WBC
   9.4
   9.9
   Hct
   24.8
   33.6
   31.3
   29.3
   30.1
   31.5
   30.4
   27.3
   Plt
   132
   106
   Cr
   1.1
   1.3
   1.3
   1.1
   TCO2
   28
   Glucose
   112
   126
   164
   100
   Other labs: Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Assessment/Plan: This is a [**Age over 90 **] year-old female with a history of CHF,
   CAD, hypertension, diverticuli who presented [**12-23**] with bleeding.
   1. GI bleeding/hypotension: Tagged RBC scan [**12-23**] negative.  Pt with
   further bleeding [**12-24**]  but refused colonoscopy.  She has a history of
   diverticuli and her presentation is consistent with diverticular bleed
   (painless, large volume).  Pt currently hemodynamically stable but Hct
   not bumping appropriately to transfusion and pt with one maroon stool
   o/n and one melanotic stool this am.
   - Q6 Hct, transfuse for Hct <30 or continued evidence of bleed
   - redo tagged RBC scan today- nuclear notified and will come to eval
   -  if angiography will pretreat for allergy
   - continue PPI (switched to PO)
   - f/u GI recs
   .
   2. dCHF/HTN:  Pt with hypertension overnight; currently off home BP
   meds (hydral 50 TID and lasix 40 daily).  Concern for contribution of
   hypertension to bleeding risk.
   - slowly transfuse RBC
   - consider lasix with each unit
 was not needed with unit this am
   - consider short active BP med (hydral) if SBP>160
   .
   3. Allergy history:  the patient has history of multiple allergies
   including shellfish. Thus will pretreat with solumedrol, benadryl and
   famotidine prior to angiography procedure as the patient is at
   increased risk and is DNR/I.
   - methylprednisolone, diphenhydramine, famotidine prn angiography
   .
   5. Hypothyroidism- will continue home meds
   .
   6. Osteoporosis:  restarted  calcium today
   .
   7. Hypernatremia/FEN:   Possibly due to hypovolemia and now resolved
   -          maintain diet of clears.
   -          D5W prn
   -          Replete PM lytes and replete PRN
   ICU Care
   Nutrition: Clear liquid diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2114-12-24**] 08:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2114-12-25 12:18:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to require PRBC for low Hct.
   No further clinical evidence for GI bleed overnight, but experienced
   some melana this AM.
   Currently receiving 1 U PRBC (total of 5 this admission).
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Lisinopril
   angioedema of l
   Aspirin
   GI bleeding;
   Diovan (Oral) (Valsartan)
   angioedema;
   Ultram (Oral) (Tramadol Hcl)
   angioedema ;
   Nsaids
   GIB and angioed
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-25**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-12-25**] 12:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 86 (58 - 86) bpm
   BP: 155/66(87) {97/31(50) - 155/66(87)} mmHg
   RR: 27 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,380 mL
                                                                  1,002 mL
   PO:
                                                                  1,140 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    122 mL
   Blood products:
                                                                    700 mL
                                                                    280 mL
   Total out:
                                                                  1,643 mL
                                                                    375 mL
   Urine:
                                                                  1,423 mL
                                                                    375 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    120 mL
   Drains:
   Balance:
                                                                    737 mL
                                                                    627 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Appears younger than stated age
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   106 K/uL
   100 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   31 mg/dL
   113 mEq/L
   144 mEq/L
   27.3 %
   9.9 K/uL
        [image002.jpg]
                            [**2114-12-23**]  10:14 AM
                            [**2114-12-23**]  06:17 PM
                            [**2114-12-24**]  12:00 AM
                            [**2114-12-24**]  12:16 AM
                            [**2114-12-24**]  05:00 AM
                            [**2114-12-24**]  10:26 AM
                            [**2114-12-24**]  02:25 PM
                            [**2114-12-24**]  07:31 PM
                            [**2114-12-25**]  05:34 AM
   WBC
   9.4
   9.9
   Hct
   24.8
   33.6
   31.3
   29.3
   30.1
   31.5
   30.4
   27.3
   Plt
   132
   106
   Cr
   1.1
   1.3
   1.3
   1.1
   TCO2
   28
   Glucose
   112
   126
   164
   100
   Other labs: Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   GI bleed -- Painless, large volume --> suspect diverticular (h/o
   diverticuolosis), doubt malignancy.  If clinical evidence for recurrent
   bleed --> repeat nuclear tagged RBC scan, possible angio with
   embolization if site identified.  Not surgical candidate.
   ANEMIA -- attributed to lower GI source (suspect diverticular).  s/p
   transfusion. Monitor Hct, transfuse to Hct >28.  Currently received
   total of 5 U PRBC.
   NUTRITIONAL SUPPORT -- NPO pending GI evaluation.
   FLUIDS -- hypovolemic, attributed to blood loss.
   HYPERNATREMIA
 Improved with free water.  Monitor Na, goal to Na<146.
   RENAL -- preserved.  Monitor UO, BUN, creat.
   HTN -- stable.  Monitor BP.
   CHF (diastolic) -- clinically stable.  Monitor while receiving PRBC.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-12-24**] 08:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2114-12-26 07:01:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2114-12-25**] 03:30 PM
   - ? vaginal bleeding- per nursing ? blood for vagina during BM
   yesterday AM and overnight
   - melena in early AM yesterday, another maroon stool at 8PM
   - HCT: 27.3 -> 1 unit-> 30.1 -> 32.4 (d'c'd 2am HCT as stable)
   - RBC tagged scan->  no abnormalities.
   - GI signed off
   - nurse [**First Name (Titles) 4560**] [**Last Name (Titles) **] looked cloudy, u/a positive, changed foley then
   started cipro.
   History obtained from Patient
   Allergies:
   History obtained from PatientLisinopril
   angioedema of l
   Aspirin
   GI bleeding;
   Diovan (Oral) (Valsartan)
   angioedema;
   Ultram (Oral) (Tramadol Hcl)
   angioedema ;
   Nsaids
   GIB and angioed
   Last dose of Antibiotics:
   Ciprofloxacin - [**2114-12-26**] 03:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-25**] 08:38 AM
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2114-12-26**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.7
C (96.3
   HR: 52 (52 - 86) bpm
   BP: 138/42(67) {101/36(55) - 170/85(99)} mmHg
   RR: 16 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,220 mL
                                                                    308 mL
   PO:
                                                                  1,200 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    740 mL
                                                                     68 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  1,382 mL
                                                                    340 mL
   [**Year (4 digits) 379**]:
                                                                  1,382 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    838 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   101 K/uL
   11.6 g/dL
   100 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   31 mg/dL
   113 mEq/L
   144 mEq/L
   33.6 %
   10.0 K/uL
        [image002.jpg]
                            [**2114-12-24**]  12:00 AM
                            [**2114-12-24**]  12:16 AM
                            [**2114-12-24**]  05:00 AM
                            [**2114-12-24**]  10:26 AM
                            [**2114-12-24**]  02:25 PM
                            [**2114-12-24**]  07:31 PM
                            [**2114-12-25**]  05:34 AM
                            [**2114-12-25**]  01:52 PM
                            [**2114-12-25**]  08:00 PM
                            [**2114-12-26**]  03:37 AM
   WBC
   9.4
   9.9
   10.0
   Hct
   31.3
   29.3
   30.1
   31.5
   30.4
   27.3
   30.1
   32.4
   33.6
   Plt
   132
   106
   101
   Cr
   1.1
   1.3
   1.3
   1.1
   TCO2
   28
   Glucose
   112
   126
   164
   100
   Other labs: Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Assessment/Plan: This is a [**Age over 90 **] year-old female with a history of CHF,
   CAD, hypertension, diverticuli who presented [**12-23**] with bleeding.
   1. GI bleeding/hypotension: Tagged RBC scan [**12-23**] negative.  Pt with
   further bleeding [**12-24**]  but refused colonoscopy.  She has a history of
   diverticuli and her presentation is consistent with diverticular bleed
   (painless, large volume).  Pt currently hemodynamically stable but Hct
   not bumping appropriately to transfusion and pt with one maroon stool
   o/n and one melanotic stool this am.
   - Q6 Hct, transfuse for Hct <30 or continued evidence of bleed
   - redo tagged RBC scan today- nuclear notified and will come to eval
   -  if angiography will pretreat for allergy
   - continue PPI (switched to PO)
   - f/u GI recs
   .
   2. dCHF/HTN:  Pt with hypertension overnight; currently off home BP
   meds (hydral 50 TID and lasix 40 daily).  Concern for contribution of
   hypertension to bleeding risk.
   - slowly transfuse RBC
   - consider lasix with each unit
 was not needed with unit this am
   - consider short active BP med (hydral) if SBP>160
   .
   3. Allergy history:  the patient has history of multiple allergies
   including shellfish. Thus will pretreat with solumedrol, benadryl and
   famotidine prior to angiography procedure as the patient is at
   increased risk and is DNR/I.
   - methylprednisolone, diphenhydramine, famotidine prn angiography
   .
   5. Hypothyroidism- will continue home meds
   .
   6. Osteoporosis:  restarted  calcium today
   .
   7. Hypernatremia/FEN:   Possibly due to hypovolemia and now resolved
   -          maintain diet of clears.
   -          D5W prn
   -          Replete PM lytes and replete PRN
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2114-12-24**] 08:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2114-12-26 11:31:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2114-12-25**] 03:30 PM
 CALLED OUT
   Blood via rectum yesterday AM --> tagged RBC scan performed yesterday,
   negative.  No further clinical evidence for significant GI bleed.
   Hct stable s/p final unit PRBC transfusion.
   Concern raised for possible vaginal bleeding source?
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Lisinopril
   angioedema of l
   Aspirin
   GI bleeding;
   Diovan (Oral) (Valsartan)
   angioedema;
   Ultram (Oral) (Tramadol Hcl)
   angioedema ;
   Nsaids
   GIB and angioed
   Last dose of Antibiotics:
   Ciprofloxacin - [**2114-12-26**] 03:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-12-26**] 09:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-12-26**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 57 (52 - 85) bpm
   BP: 146/55(75) {103/37(55) - 170/85(99)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,220 mL
                                                                    354 mL
   PO:
                                                                  1,200 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    114 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  1,382 mL
                                                                    600 mL
   Urine:
                                                                  1,382 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    838 mL
                                                                   -246 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Appears younger than stated age
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.6 g/dL
   101 K/uL
   100 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   31 mg/dL
   113 mEq/L
   144 mEq/L
   33.6 %
   10.0 K/uL
        [image002.jpg]
                            [**2114-12-24**]  12:00 AM
                            [**2114-12-24**]  12:16 AM
                            [**2114-12-24**]  05:00 AM
                            [**2114-12-24**]  10:26 AM
                            [**2114-12-24**]  02:25 PM
                            [**2114-12-24**]  07:31 PM
                            [**2114-12-25**]  05:34 AM
                            [**2114-12-25**]  01:52 PM
                            [**2114-12-25**]  08:00 PM
                            [**2114-12-26**]  03:37 AM
   WBC
   9.4
   9.9
   10.0
   Hct
   31.3
   29.3
   30.1
   31.5
   30.4
   27.3
   30.1
   32.4
   33.6
   Plt
   132
   106
   101
   Cr
   1.1
   1.3
   1.3
   1.1
   TCO2
   28
   Glucose
   112
   126
   164
   100
   Other labs: Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   GI bleed -- Painless, large volume --> suspect diverticular (h/o
   diverticuolosis), doubt malignancy.  Clinically stable.  No further
   clincal evidence for bleed.  Not surgical candidate.
   ANEMIA -- attributed to lower GI source (suspect diverticular).  s/p
   transfusion. Monitor Hct, transfuse to Hct >28.  Currently received
   total of 5 U PRBC.
   UTI
 ciprofloxicin
   NUTRITIONAL SUPPORT -- NPO pending GI evaluation.
   FLUIDS -- hypovolemic, attributed to blood loss.
   HYPERNATREMIA
 Improved with free water.  Monitor Na, goal to Na<146.
   RENAL -- preserved.  Monitor UO, BUN, creat.
   HTN -- stable.  Monitor BP.
   CHF (diastolic) -- clinically stable.  Monitor while receiving PRBC.
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-12-24**] 08:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill